US09382226B2
Step A. N-cyclopropyl-4,5-difluoro-2-nitroaniline
2,4,5-Trifluoronitrobenzene (2.00 g, 11.3 mmol), potassium fluoride (0.656 g, 11.3 mmol), potassium carbonate (1.561 g, 11.29 mmol), and cyclopropylamine (0.93 ml, 13.55 mmol) were added to a vial and heated in a microwave at 90° C. for 10 min. The reaction was then diluted with dichloromethane, washed with water and brine, dried over magnesium sulfate, and concentrated under reduced pressure. Purification by flash chromatography on silica gel (0-15% ethyl acetate in hexanes) provided the title compound: 1H NMR (500 MHz, CDCl3) δ 8.04 (dd, J=10.4, 8.5 Hz, 1 H), 7.09 (dd, J=12.6, 7.0 Hz, 1 H), 2.55-2.54 (m, 1 H), 0.97-0.93 (m, 2 H), 0.69-0.66 (m, 2 H).

reactant | 2,4,5-Trifluoronitrobenzene | 11.3 mmol, 2.00 g | FC1=C(C=C(C(=C1)F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | potassium fluoride | 11.3 mmol, 0.656 g | [F-].[K+]
reactant | potassium carbonate | 11.29 mmol, 1.561 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopropylamine | 13.55 mmol, 0.93 ml | C1(CC1)N | C3H7N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-cyclopropyl-4,5-difluoro-2-nitroaniline | C1(CC1)NC1=C(C=C(C(=C1)F)F)[N+](=O)[O-] | C9H8F2N2O2
